US08541380B2
Step 3: ((3-Bromonaphthalen-1-yl)methoxy)triisopropylsilane (compound 76)
To a solution of (3-bromonaphthalen-1-yl)methanol in DMF (100 mL) was added imidazole (6.4 g, 93 mmol), DMAP (0.57 g, 4.7 mmol), and TIPSCl (15 mL, 70 mmol). The resulting solution was stirred at room temperature for 12 h, diluted with a saturated ammonium chloride and extracted with EtOAc. The organic layer was washed with water then brine, dried over anhydrous MgSO4, filtered and concentrated in vacuo. The crude residue was purified by column chromatography (3-10% EtOAc/hexanes) to yield the title compound (17.9 g, 96%) as a colorless oil.

reactant | (3-bromonaphthalen-1-yl)methanol | BrC=1C=C(C2=CC=CC=C2C1)CO | C11H9BrO
reactant | imidazole | 93 mmol, 6.4 g | N1C=NC=C1 | C3H4N2
reactant | TIPSCl | 70 mmol, 15 mL | CC(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 4.7 mmol, 0.57 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ammonium chloride | [Cl-].[NH4+]
product | ((3-Bromonaphthalen-1-yl)methoxy)triisopropylsilane | 17.9 g, 96% | BrC=1C=C(C2=CC=CC=C2C1)CO[Si](C(C)C)(C(C)C)C(C)C | C20H29BrOSi
